US06191124B1
This compound was prepared as in EXAMPLE 15 by condensation of 1-(6,7,8,9-tetrahydro-5H-cyclohept [d]imidazo[2,1-b]thiazol-3-yl ethanone (Formula N-4) with 4-fluorobenzaldehyde to provide 6,7,8,9-Tetrahydro-[2-(4-fluorophenyl)-E-ethenyl]-5H-cyclohept [d]imidazo[2,1-b]thiazol-3-yl methanone (Formula N-5, X=4-fluoro), 3.1 g, m.p. 187-188°.

reactant | 6,7,8,9-tetrahydro-5H-cyclohept [d]imidazo[2,1-b]thiazol-3-yl ethanone | N=1C=C(N2C1SC1=C2CCCCC1)C(C)=O | C12H14N2OS
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 6,7,8,9-Tetrahydro-[2-(4-fluorophenyl)-E-ethenyl]-5H-cyclohept [d]imidazo[2,1-b]thiazol-3-yl methanone | FC1=CC=C(C=C1)/C=C/C(=O)C1=CN=C2SC3=C(N21)CCCCC3 | C19H17FN2OS
